US03973030
Other N-methyl-cinnamylamines can be prepared as follows: To the solution of 5.55 g of di-isopropylamine in 60 ml of diethyl ether, 35 ml of 1.6 molar n-butyl lithium in hexane are added dropwise while stirring at -20° under nitrogen. Thereupon the solution of 6.9 g of N-ethylidenecyclohexylamine in 50 ml of diethyl ether is added dropwise at -20°, followed by the solution of 10.6 g of 4-benzyloxy-benzaldehyde in 50 ml of diethyl ether and 10 ml of tetrahydrofuran at -70°. The mixture is stirred for 1 hour at room temperature, washed with 50 ml of water and stirred with 100 ml of water and 50 ml of acetic acid for 8 hours at room temperature. The ethereal layer is collected, washed with water, N hydrochloric acid, 2N aqueous sodium hydroxide and saturated aqueous sodium chloride, dried and evaporated, to yield the 4-benzyloxycinnamaldehyde.

reactant | di-isopropylamine | 5.55 g | C(C)(C)NC(C)C | C6H15N
reactant | N-ethylidenecyclohexylamine | 6.9 g | C(C)=NC1CCCCC1 | C8H15N
reactant | 4-benzyloxy-benzaldehyde | 10.6 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | diethyl ether | 60 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | n-butyl lithium | 1.6 molar, 35 ml | C(CCC)[Li]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-benzyloxycinnamaldehyde | C(C1=CC=CC=C1)OC1=CC=C(C=CC=O)C=C1 | C16H14O2
